US04604127
The reaction of a haloformate, such as phenyl chloroformate, and a pyridazineamine generally is carried out by combining a slight excess of haloformate with the pyridazine in an organic solvent, such as pyridine or triethylamine, and stirring the mixture for about 1 to about 24 hours at a temperature of about 0° to about 30° C. The product of the reaction, a pyridazinyl carbamate, is generally isolated by acidifying the reaction mixture, for instance by the addition of a mineral acid, such as hydrochloric acid or sulfuric acid, and collecting by filtration the precipitate which forms. The carbamate normally needs no further purification, but if desired it can be crystallized from common solvents, such as benzene, acetone, ethyl acetate, and the like.

reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridazineamine | N1=NC(=CC=C1)N | C4H5N3
reactant | pyridazine | N1=NC=CC=C1 | C4H4N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | pyridazinyl carbamate | C(N)(OC=1N=NC=CC1)=O | C5H5N3O2
